US03988458
Upon boiling a solution of 9.3 g 3-nitro-6-chlorobenzaldehyde and 13.0 g amidinoacetic acid ethyl ester in 150 ml ethanol for 2 hours, 2,6-diamino-4-(3-nitro-6-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of m.p. 130° C (ethanol) is obtained.

reactant | 3-nitro-6-chlorobenzaldehyde | 9.3 g | [N+](=O)([O-])C=1C=C(C=O)C(=CC1)Cl | C7H4ClNO3
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,6-diamino-4-(3-nitro-6-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 48% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1Cl)[N+](=O)[O-])C(=O)OCC)N)N | C17H19ClN4O6
